US08071776B2
3-Amino-5-chloro-4-methyl-6-[(2-pyrrolidin-1-yl-ethylcarbamoyl)-methoxy]-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide
To a solution of (3-amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid (0.300 g, 0.843 mmol) in a 1:1 mixture of THF:DMF (2.0 ml each) are added 1-hydroxybenzotriazole hydrate (0.148 g, 1.096 mmol), N,N-diisopropylethylamine (0.163 g, 1.265 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.242 g, 1.265 mmol), and 1-(2-aminoethyl)pyrrolidine (0.289 g, 2.529 mmol). The resulting solution is stirred at room temperature for 16 hours. The reaction is quenched by the addition of water (25 ml). A yellow precipitate formed. The mixture is cooled to 0° C. and stirred for 10 minutes, then filtered. The collected solid is dried in the vacuum oven for 3 hours at 60° C. This affords the title compound as a yellow solid (0.069 g, 18%). Mass (m/z): 452.2 (M++1), 450.2 (M+−1).

reactant | (3-amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid | 0.843 mmol, 0.300 g | NC1=C(SC2=NC(=C(C(=C21)C)Cl)OCC(=O)O)C(NC2CC2)=O | C14H14ClN3O4S
reactant | 1-hydroxybenzotriazole hydrate | 1.096 mmol, 0.148 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 1.265 mmol, 0.163 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.265 mmol, 0.242 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-(2-aminoethyl)pyrrolidine | 2.529 mmol, 0.289 g | NCCN1CCCC1 | C6H14N2
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 3-Amino-5-chloro-4-methyl-6-[(2-pyrrolidin-1-yl-ethylcarbamoyl)-methoxy]-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 0.069 g, 18% | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)OCC(NCCN2CCCC2)=O)S1)N | C20H26ClN5O3S
